US03956495
A solution of 5 g of morpholine in 50 ml of tetrahydrofuran was added to 6.8 g of 2-chloro-4-(2-diethylaminoethylamino)quinazoline in 50 ml of tetrahydrofuran. The reaction mixture was heated at reflux overnight and then evaporated to dryness. The residue was suspended in dilute sodium hydroxide solution and the crude product was extracted into ether. The ether extract was washed with water, dried over anhydrous sodium sulfate, filtered, and the filtrate evaporated to dryness. Attempts to crystallize the residue were unsuccessful. The residue then was distilled under reduced pressure. The distillate was dissolved in ether and treated with hydrogen chloride. The product was collected by filtraton and dried, giving 3.7 g of 2-morpholino-4-(2-diethylaminoethylamino)quinazoline hydrochloride; m.p. 216°-220°. The following elemental analysis was obtained:

reactant | morpholine | 5 g | N1CCOCC1 | C4H9NO
reactant | 2-chloro-4-(2-diethylaminoethylamino)quinazoline | 6.8 g | ClC1=NC2=CC=CC=C2C(=N1)NCCN(CC)CC | C14H19ClN4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-morpholino-4-(2-diethylaminoethylamino)quinazoline hydrochloride | 3.7 g | Cl.O1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)NCCN(CC)CC | InChI=1S/C18H27N5O.ClH/c1-3-22(4-2)10-9-19-17-15-7-5-6-8-16(15)20-18(21-17)23-11-13-24-14-12-23;/h5-8H,3-4,9-14H2,1-2H3,(H,19,20,21);1H
